US06822100B2
A solution of trans N,N-dimethyl-2-(indol-5-yl)cycloprop-1-yl methylamine (75 mg, 0.35 mmol), and potassium t-butoxide (29 mg, 0.35 mmol) in anhydrous THF at 0° C. was stirred at 0° C. for 30 min before cyanogen bromide (37 mg, 0.35 mmol) was added. The reaction was warmed to room temperature and stirred for 16 h. The reaction was concentrated in vacuo, and the residue was dissolved in water, and extracted with ethyl acetate. The organic extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give N,N-dimethyl-2-(3-bromoindol-5-yl)cycloprop-1-yl methylamine (100 mg, 98%) as a colorless oil. 1H NMR (MeOH-d4): δ 7.26 (d, J=8.4 Hz, 1H), 7.22 (s, 1H), 7.16 (s, 1H), 6.94 (dd, J=8.7, 1.5 Hz, 1H), 2.58 (dd, J=6.0, 1H), 2.35 (s, 6H), 2.31 (m, 1H), 1.80 (m, 1H), 1.22 (m, 1H), 1.03 (m, 1H), and 0.88 (m, 1H). FIMS: 293.1 (M−H), reverse-phase HPLC purity: 85%.

reactant | trans N,N-dimethyl-2-(indol-5-yl)cycloprop-1-yl methylamine | 0.35 mmol, 75 mg | CN(C)C[C@H]1[C@@H](C1)C=1C=C2C=CNC2=CC1 | C14H18N2
reactant | potassium t-butoxide | 0.35 mmol, 29 mg | CC(C)([O-])C.[K+]
reactant | cyanogen bromide | 0.35 mmol, 37 mg | N#CBr | CBrN
solvent | THF | C1CCOC1 | C4H8O
product | N,N-dimethyl-2-(3-bromoindol-5-yl)cycloprop-1-yl methylamine | 100 mg, 98% | CN(C)CC1C(C1)C=1C=C2C(=CNC2=CC1)Br | C14H17BrN2
